US07405211B2
According to the general method of Sharma et al., 2000, Synth. Commun., 30:397-405, a stirred solution of the 3-(phenylmethyl)salicylaldehyde (1.27 g, 6 mmol) in ethanol (16 ml) was treated dropwise with a solution of silver nitrate (2.0 g, 12 mmol) in water (16 ml). A solution of potassium hydroxide (2.69 g, 48 mmol) was then added dropwise over 40 minutes. The solution was allowed to stir at RT for 6 h. The mixture was filtered through a pad of celite, and the filter pad washed with water (2×10 ml). The filtrate was washed with diethyl ether (2×15 ml) and then acidified with 1N HCl. The milky suspension was extracted with diethyl ether (2×30 ml), and the combined extracts were dried (Na2SO4) and the solvent removed to yield 3-(phenylmethyl)salicylic acid as a tan solid (0.47 g, 34%). 1H-NMR (CDCl3, 400 MHz): δ 4.02 (s, 2H), 6.84 (t, 1H, J=8 Hz), 7.19-7.32 (m, 6H), 7.79 (d, 1H, J=8 Hz), 10.74 (s, 1H).

reactant | 3-(phenylmethyl)salicylaldehyde | 6 mmol, 1.27 g | C1(=CC=CC=C1)CC1=C(C(C=O)=CC=C1)O | C14H12O2
reactant | potassium hydroxide | 48 mmol, 2.69 g | [OH-].[K+]
solvent | ethanol | 16 ml | C(C)O | C2H6O
solvent | water | 16 ml | O | H2O
catalyst | silver nitrate | 12 mmol, 2.0 g | [N+](=O)([O-])[O-].[Ag+]
product | 3-(phenylmethyl)salicylic acid | 0.47 g, 34% | C1(=CC=CC=C1)CC1=C(C(C(=O)O)=CC=C1)O | C14H12O3
